US08877772B2
Preparation of 3-(1H-indol-5-yl)-5-(4-((4-methylpiperazin-1-yl)methyl)phenyl)-1H-pyrrolo[2,3-b]pyridine (Compound AK)
To a solution of 4-(3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzaldehyde [Intermediate AJ] (0.11 g, 0.214 mmol) in CH2Cl2 (3 mL) was added 1-methylpiperazine (40 μL, 0.40 mmol) and sodium triacetoxyborohydride (68 mg, 0.32 mmol). The reaction mixture was stirred for 1 hr at room temperature, after which it was partitioned between CH2Cl2 and 1 M NaOH. The organic layer was separated, dried over MgSO4, and concentrated in vacuo. The residue was dissolved in 3:2 MeOH:acetone (5 mL), and 2 M NaOH (1.5 mL) was added. The resulting mixture was stirred at 65° C. for 30 min, after which it was partitioned between EtOAc and 1 M NaOH. The organic layer was separated, dried over MgSO4, filtered, and stripped to provide a residue that was subjected to preparatory HPLC to yield the title compound. HPLC retention time: 1.63 minutes; MS ESI (m/z) 422.4 (M+1)+, calc. 421.

reactant | 4-(3-(1H-indol-5-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzaldehyde | 0.214 mmol, 0.11 g | N1C=CC2=CC(=CC=C12)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=O)C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H21N3O3S
reactant | 1-methylpiperazine | 0.40 mmol, 40 μL | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.32 mmol, 68 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(1H-indol-5-yl)-5-(4-((4-methylpiperazin-1-yl)methyl)phenyl)-1H-pyrrolo[2,3-b]pyridine | N1C=CC2=CC(=CC=C12)C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)CN2CCN(CC2)C | C27H27N5
